US06683201B2
A solution of 127 mg (0.485 mmol) triphenylphosphine in 0.5 ml THF was treated at 0° C. with 0.075 ml (0.485 mmol) DEAD, then with 0.016 ml (0.388 mmol) methanol and finally with 80 mg (0.19 mmol) of N-[5-(5-Dimethylamino-pent-1-ynyl)-pyrimidin-2-yl]-4-trifluoromethyl-benzenesulfonamide in 0.3 ml THF. The reaction mixture was stirred over night at RT, evaporated and extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phases were dried over Na2SO4, evaporated and purified by flash column chromatography on silica gel with CH2Cl2/MeOH (99:1 to 95:5) to yield 19 mg (23%) of N-[5-(5-Dimethylamino-pent-1-ynyl)-pyrimidin-2-yl]-N-methyl-4-trifluoromethyl-benzenesulfonamide, MS: 427 (MH+).

reactant | triphenylphosphine | 0.485 mmol, 127 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DEAD | 0.485 mmol, 0.075 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | methanol | 0.388 mmol, 0.016 ml | CO | CH4O
reactant | N-[5-(5-Dimethylamino-pent-1-ynyl)-pyrimidin-2-yl]-4-trifluoromethyl-benzenesulfonamide | 0.19 mmol, 80 mg | CN(CCCC#CC=1C=NC(=NC1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C18H19F3N4O2S
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
solvent | THF | 0.3 ml | C1CCOC1 | C4H8O
product | N-[5-(5-Dimethylamino-pent-1-ynyl)-pyrimidin-2-yl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | 19 mg, 23% | CN(CCCC#CC=1C=NC(=NC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)C | C19H21F3N4O2S
